US04775677
[2-[(3,4-dichlorophenyl)imino]-3-hexyl-4-oxo-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 1 from N-hexyl-N'-(3,4-dichlorophenyl)thiourea (5.4 g, 18 mmoles) and acetylenedicarboxylic acid (2.1 g, 17 mmoles). Recrystallization from acetonitrile then methanol gave the product (1 g), mp 156°-157° C.

reactant | N-hexyl-N'-(3,4-dichlorophenyl)thiourea | 18 mmoles, 5.4 g | C(CCCCC)NC(=S)NC1=CC(=C(C=C1)Cl)Cl | C13H18Cl2N2S
reactant | acetylenedicarboxylic acid | 17 mmoles, 2.1 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [2-[(3,4-dichlorophenyl)imino]-3-hexyl-4-oxo-5-thiazolidinylidene]acetic acid | 1 g | ClC=1C=C(C=CC1Cl)N=C1SC(C(N1CCCCCC)=O)=CC(=O)O | C17H18Cl2N2O3S
